US06495542B1
To a solution of 2-[2-(dimethylamino)ethylamino]-4-nitro-1H-benzimidazole (105 mg) in ethanol (4 ml) were added iron (reduced, 118 mg) and acetic acid (0.24 ml) at room temperature and the mixture was refluxed for 6 hours. The precipitate was filtered off and the filtrate was evaporated in vacuo. The residue was dissolved in a mixture of chloroform and methanol (5-1) and the organic layer was washed with saturated aqueous sodium hydrogencarbonate solution, and dried over magnesium sulfate. The solvent was evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform-methanol-ammonia solution (28%)=160-32-1) to give 4-amino-2-[2-(dimethylamino)-ethylamino]-1H-benzimidazole (80 mg).

reactant | 2-[2-(dimethylamino)ethylamino]-4-nitro-1H-benzimidazole | 105 mg | CN(CCNC1=NC2=C(N1)C=CC=C2[N+](=O)[O-])C | C11H15N5O2
reactant | acetic acid | 0.24 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | iron | 118 mg | [Fe] | Fe
product | 4-amino-2-[2-(dimethylamino)-ethylamino]-1H-benzimidazole | 80 mg | NC1=CC=CC=2NC(=NC21)NCCN(C)C | C11H17N5
